### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/LapMatrix): {`adjMatrix`/`degMatrix`/`lapMatrix`} are Hermitian

### PR DESCRIPTION
**Pull request by SnirBroshi**
Also a small cleanup and golf.

This should let us access the eigenvalues of these matrices, for spectral graph theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/AdjMatrix.lean [hunk 1]
```diff
@@ -78,6 +76,11 @@ theorem apply_ne_one_iff [MulZeroOneClass α] [Nontrivial α] (h : IsAdjMatrix A
 theorem apply_ne_zero_iff [MulZeroOneClass α] [Nontrivial α] (h : IsAdjMatrix A) (i j : V) :
     ¬A i j = 0 ↔ A i j = 1 := by rw [← apply_ne_one_iff h, Classical.not_not]
 
+theorem isHermitian [NonAssocSemiring α] [StarRing α] (h : A.IsAdjMatrix) : A.IsHermitian := by
```
Comment (themathqueen) [inline Mathlib/Combinatorics/SimpleGraph/AdjMatrix.lean]: `protected`? and `simp`?
```suggestion
@[simp] protected theorem isHermitian [NonAssocSemiring α] [StarRing α] (h : A.IsAdjMatrix) :
    A.IsHermitian := by
```
